US04929639
A solution of (2R,4R,5S)-4-t-butyldimethylsiloxymethyl-5-[(Z)-6-carboxy-2-hexenyl]-2-methyl-1,3-dioxane (4.75 g) in N,N-dimethylformamide (50 ml) were added potassium carbonate (1.76 g) and methyl iodide (1.62 ml) and the mixture was stirred at room temperature for 5 hours. The solution was poured into water and the resulting aqueous solution was extracted with ether. The organic layer was washed successively with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on a silica gel column (75 g) with a mixture of n-hexane and ethyl acetate (20:1) as an eluent to give (2R,4R,5S) -4-t-butyldimethylsiloxymethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (4.17 g) as an oil.

reactant | (2R,4R,5S)-4-t-butyldimethylsiloxymethyl-5-[(Z)-6-carboxy-2-hexenyl]-2-methyl-1,3-dioxane | 4.75 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)O)C | C19H36O5Si
reactant | potassium carbonate | 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.62 ml | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (2R,4R,5S) -4-t-butyldimethylsiloxymethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 4.17 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C20H38O5Si
